US07319101B2
b) 2,3-Dihydroxy-5-(toluene-4-sulfonyl)-benzoic acid
Methyl 2,3-dimethoxy-5-(toluene-4-sulfonyl)-benzoate (1.3 g, 4.036 mmol) was dissolved in 5 mL AcOH to which HBr (15 mL of a 33% solution in AcOH) and Bu4NBr (1.1 g, 3.4 mmol, 0.85 eq.) were added. The reaction mixture was stirred at 140° C. for 20 h, then H2O was slowly added and the mixture was extracted with EtOAc. The organic layer was washed twice with saturated NaCl solution, dried over MgSO4 and evaporated in vacuo. The crude product was purified using flash chromatography (silica gel, hexane/EtOAc/AcOH 3:2:0.2→1:3:0.2) to yield the desired product as an orange solid.

reactant | Methyl 2,3-dimethoxy-5-(toluene-4-sulfonyl)-benzoate | 4.036 mmol, 1.3 g | COC1=C(C(=O)OC)C=C(C=C1OC)S(=O)(=O)C1=CC=C(C=C1)C | C17H18O6S
reactant | H2O | O | H2O
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
solvent | HBr | Br | BrH
catalyst | Bu4NBr | 3.4 mmol, 1.1 g, 0.85 eq. | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | 2,3-Dihydroxy-5-(toluene-4-sulfonyl)-benzoic acid | OC1=C(C(=O)O)C=C(C=C1O)S(=O)(=O)C1=CC=C(C=C1)C | C14H12O6S
